US04163097
(g) N-[1-Aza-3-methyl-2-oxo-but-3-enyl]-dimethylmaleimide
140.0 g (1.0 mol) of N-amino-dimethylmaleimide and 111.3 g (1.1 mols) of triethylamine (dried over NaOH) are dissolved in 2,500 ml of dichloromethane and the solution is cooled to 0° C. 104.5 g (1.0 mol) of methacrylic acid chloride are allowed to run dropwise into this solution at such a rate that the temperature does not 10° C. When the reaction has ended, the mixture is heated to 40° C. and then stirred for one hour at this temperature.

reactant | N-amino-dimethylmaleimide | 1.0 mol, 140.0 g | NN1C(C(=C(C1=O)C)C)=O | C6H8N2O2
reactant | triethylamine | 1.1 mols, 111.3 g | C(C)N(CC)CC | C6H15N
reactant | methacrylic acid chloride | 1.0 mol, 104.5 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | dichloromethane | 2,500 ml | ClCCl | CH2Cl2
product | N-[1-Aza-3-methyl-2-oxo-but-3-enyl]-dimethylmaleimide | NC(C(CN1C(C(=C(C1=O)C)C)=O)=O)=C | C10H12N2O3
